US07482341B2
Step E]: 3-Chloro-N-(5-cyclopropylmethoxymethyl-6-methyl-pyridin-2-yl)-2-methyl-benzenesulfonamide
This material was prepared in analogy to example 1 from 5-cyclopropylmethoxymethyl-6-methyl-pyridin-2-ylamine (0.053 g) and 3-chloro-2-methyl-benzenesulfonyl chloride (0.058 g) as a light brown solid (0.046 g). MS (ESI−): 379.1 ([M−H]−)

reactant | 5-cyclopropylmethoxymethyl-6-methyl-pyridin-2-ylamine | 0.053 g | C1(CC1)COCC=1C=CC(=NC1C)N | C11H16N2O
reactant | 3-chloro-2-methyl-benzenesulfonyl chloride | 0.058 g | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)C | C7H6Cl2O2S
product | 3-Chloro-N-(5-cyclopropylmethoxymethyl-6-methyl-pyridin-2-yl)-2-methyl-benzenesulfonamide | ClC=1C(=C(C=CC1)S(=O)(=O)NC1=NC(=C(C=C1)COCC1CC1)C)C | C18H21ClN2O3S
